US06995162B2
1-[2-(5-Nitro-2-trifluoromethylphenoxy)ethyl]-pyrrolidine was prepared from 5-nitro-2-trifluoromethyl-phenol and 1-(2-chloroethyl)pyrrolidine by a procedure similar to that described for 1-[2-(2-tert-butyl-5-nitro-phenoxy)-ethyl]-piperidine.

reactant | 5-nitro-2-trifluoromethyl-phenol | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(F)(F)F | C7H4F3NO3
reactant | 1-(2-chloroethyl)pyrrolidine | ClCCN1CCCC1 | C6H12ClN
reactant | 1-[2-(2-tert-butyl-5-nitro-phenoxy)-ethyl]-piperidine | C(C)(C)(C)C1=C(OCCN2CCCCC2)C=C(C=C1)[N+](=O)[O-] | C17H26N2O3
product | 1-[2-(5-Nitro-2-trifluoromethylphenoxy)ethyl]-pyrrolidine | [N+](=O)([O-])C=1C=CC(=C(OCCN2CCCC2)C1)C(F)(F)F | C13H15F3N2O3
